US08685541B2
22.7 g (63.7 mmol) of Methyl triphenylphosphonium bromide and 200 ml of dry THF are placed in a dried 500 ml three necked round bottomed flask, equipped with a magnetic stirrer and the reaction mixture is cooled to 0° C. internal temperature with a NaCl/ice bath. 41.8 ml (66.9 mmol) of 1.6 M Butyl lithium solution in Hexane are added within 30 minutes while keeping the internal temperature below 3° C. The reaction mixture is stirred at the same temperature for 45 minutes, then 47.2 mmol of Dibenzofuran-2-carboxaldehyde dissolved in 100 ml of dry THF are added within 30 minutes. After two hours the reaction mixture is warmed to room temperature, added to 500 ml of water and extracted three times with 500 ml of Ethylacetate. The combined organic phases are washed once with 500 ml of a 1:1 mixture of buffer pH=1 and brine, once with 30 ml of brine, dried over Magnesiumsulfate, filtered and evaporated. The crude product is dissolved in Dichloromethane, 100 g of silica are added and the solvent is evaporated. The resulting powder is added on top of 300 g of silica in a sintered glass funnel and the product eluted with Hexane/Ethylacetate=8:1. The product is crystallized from 2-Propanol. 2-Vinyl-dibenzofuran is isolated in 95% yield.

reactant | Butyl lithium | 66.9 mmol, 1.6 M, 41.8 ml | C(CCC)[Li]
reactant | Dibenzofuran-2-carboxaldehyde | 47.2 mmol | C1=C(C=CC=2OC3=C(C21)C=CC=C3)C=O | C13H8O2
reactant | water | 500 ml | O | H2O
catalyst | Methyl triphenylphosphonium bromide | 63.7 mmol, 22.7 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | Hexane | CCCCCC | C6H14
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 2-Vinyl-dibenzofuran | 95% yield | C(=C)C1=CC2=C(OC3=C2C=CC=C3)C=C1 | C14H10O
